US04879295
A suspension of 2-(3-hydroxy-2-pyridyl)-4-thiazolecarboxylic acid (200 mg) and N,N'-carbonyldiimidazole (hereinafter, referred to as CDI) (291.9 mg) in dry DMF (7 ml), prepared under argon atmosphere, was heated at 80° C. for 1.5 hours. A solution of 5-aminotetrazole (91.9 mg) in dry DMF (3 ml) was added dropwise thereto and allowed to react at 85° C. for 3.5 hours. Then the reaction mixture was cooled to room temperature. The produced solids were filtered with suction, washed with DMF and THF and dried to give white solids of 2-(3-hydroxy-2-pyridyl)-N-(1H-tetrazole-5-yl)-4-thiazolecarboxamide (140 mg, 54%), m.p. above 300° C.

reactant | 2-(3-hydroxy-2-pyridyl)-4-thiazolecarboxylic acid | 200 mg | OC=1C(=NC=CC1)C=1SC=C(N1)C(=O)O | C9H6N2O3S
reactant | 5-aminotetrazole | 91.9 mg | NC1=NN=NN1 | CH3N5
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-(3-hydroxy-2-pyridyl)-N-(1H-tetrazole-5-yl)-4-thiazolecarboxamide | 140 mg, 54% | OC=1C(=NC=CC1)C=1SC=C(N1)C(=O)NC1=NN=NN1 | C10H7N7O2S
